US04743610
2-Amino-N-[2-(3-pyridinyl)ethyl]benzamide
A mixture of 4.89 g of isatoic anhydride, 3.66 g of 2-(3-pyridinyl)ethylamine and 40 ml of ethanol was stirred at room temperature for 22 hours. The reaction mixture was concentrated and the residue was dissolved in ethyl acetate and cooled. The desired product was isolated by filtration, mp 126°-128° C.

reactant | isatoic anhydride | 4.89 g | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
reactant | 2-(3-pyridinyl)ethylamine | 3.66 g | N1=CC(=CC=C1)CCN | C7H10N2
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 2-Amino-N-[2-(3-pyridinyl)ethyl]benzamide | NC1=C(C(=O)NCCC=2C=NC=CC2)C=CC=C1 | C14H15N3O
